* AD620 Frontend Simplified LTspice Netlist (single-supply, ref=1.65V)
* Replace EAMP with actual AD620 macro if available
*
* Power
V3V3  V3V3  0  DC 3.3
V5    V5    0  DC 5

* Mid-rail reference for single-supply
RREF1 V3V3 VREF 10k
RREF2 0    VREF 10k
CREF  VREF 0    10u
CREF2 VREF 0    100n

* ENG source (differential microvolt-level + noise)
VINP INP 0 SINE(0 250u 500) ; 250 uV pk @ 500 Hz
VINN INN 0 0
RINP INP N1 100k
RINN INN N2 100k

* AC coupling high-pass (optional)
CINP N1 INP_HP 1u
CINN N2 INN_HP 1u
RHP1 INP_HP VREF 1Meg
RHP2 INN_HP VREF 1Meg

* Instrumentation amp (behavioral) G≈100, output centered at VREF
* VOUT = VREF + 100*(INP_HP - INN_HP)
EAMP OUT 0 VALUE = { V(VREF) + 100*( V(INP_HP)-V(INN_HP) ) }

* Output RC low-pass and protection to ADC
RPROT OUT ADC 4.7k
CADC  ADC 0  100n

* ADC presented as high-Z probe
RADC ADC 0 10Meg

* Supplies (behavioral amp runs off ideal supplies implicitly)
* If using an actual AD620 model, connect pins: +Vs=V5, -Vs=0, REF=VREF

* Analysis
.tran 0 50m 0 10u
*.ac dec 50 1 50k

*.plot tran V(OUT) V(ADC)
.control
run
plot V(OUT) V(ADC)
.endc

.end